US08202873B2
Suspend sodium hydride (0.23 g, 5.71 mol, 60% dispersion in oil) in tetrahydrofuran (10 mL) and cool to 0° C. Add a solution of (3,5-diethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester (1.0 g, 4.76 mmol) in tetrahydrofuran (10 mL) dropwise. After stirring at 0° C. for 30 min., add iodoethane (0.46 mL, 5.71 mmol). Allow the reaction mixture to warm to room temperature while stirring for 18 hr. Partition between ethyl acetate (100 mL) and saturated aqueous ammonium chloride solution (50 mL). Separate the organic layer, dry (sodium sulfate), filter and concentrate to give (1,3,5-triethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester as an oil (0.92 g, 81%). 1H-NMR (400 MHz, CDCl3) δ 4.09 (q, 2H), 4.01 (q, 2H), 3.33 (s, 2H), 2.58 (m, 4H), 1.38 (t, 3H), 1.20 (m, 9H).

reactant | sodium hydride | 5.71 mol, 0.23 g | [H-].[Na+]
reactant | (3,5-diethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 4.76 mmol, 1.0 g | C(C)OC(CC=1C(=NNC1CC)CC)=O | C11H18N2O2
reactant | iodoethane | 5.71 mmol, 0.46 mL | ICC | C2H5I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1,3,5-triethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 0.92 g, 81% | C(C)OC(CC=1C(=NN(C1CC)CC)CC)=O | C13H22N2O2
